US08067424B2
A solution of L-serine (20.56 g, 192 mmol) in 1 M NaOH (400 mL) and dioxane (200 mL) at 0° C., was treated with di-tert-butyl dicarbonate (50.29 g, 230 mmol) and the mixture was allowed to warm to rt and stirred for two days with readjustment to pH 9. The dioxane was removed in vacuo and the aqueous layer washed with diethyl ether (200 mL). Ethyl acetate (400 mL) was added to the aqueous mixture and 1 M H2SO4 added until pH 2-3 was reached. The organic phase was separated, the aqueous layer saturated with NaCl and extracted with ethyl acetate (4×200 mL). The combined organic layers were filtered, dried (MgSO4) and the solvent was removed under vacuum, to give Boc-Serine as thick, colourless syrup, which was used without purification.

reactant | L-serine | 192 mmol, 20.56 g | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | di-tert-butyl dicarbonate | 230 mmol, 50.29 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 1 M, 400 mL | [OH-].[Na+]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | Boc-Serine | C(=O)(OC(C)(C)C)N[C@@H](CO)C(=O)O | C8H15NO5
